US08703941B2
Synthesis of (1-[6-ethylthieno[2,3-d]pyrimidin-4-yl]piperidin-4-yl)methanamine hydrochloride (I-178).
Excess hydrogen chloride gas was bubbled into a solution of tert-butyl N-[(1-[6-ethylthieno[2,3-d]pyrimidin-4-yl]piperidin-4-yl)methyl]carbamate (3.4 g, 9.03 mmol, 1.00 equiv) in dichloromethane (30 mL). The resulting solution was stirred for 2 h at room temperature. The product was precipitated and collected by filtration. The solid was dried in an oven under reduced pressure to give 2.5 g (88%) of Compound I-178 as a yellow solid. 1H NMR: (400 MHz, CD3OD) δ 8.59 (1H, s), 7.46 (1H, s), 4.90-4.95 (2H, d), 3.44-3.50 (2H, t), 3.02-3.07 (2H, q), 2.94-2.95 (2H, d), 2.16-2.21 (1H, m), 2.06-2.09 (2H, d), 1.49-1.55 (2H, q), 1.39-1.43 (3H, t). MS: m/z 277 (M+H)+.

reactant | hydrogen chloride | Cl | ClH
reactant | tert-butyl N-[(1-[6-ethylthieno[2,3-d]pyrimidin-4-yl]piperidin-4-yl)methyl]carbamate | 9.03 mmol, 3.4 g, 1.00 equiv | C(C)C1=CC2=C(N=CN=C2N2CCC(CC2)CNC(OC(C)(C)C)=O)S1 | C19H28N4O2S
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (1-[6-ethylthieno[2,3-d]pyrimidin-4-yl]piperidin-4-yl)methanamine hydrochloride | 2.5 g, 88% | Cl.C(C)C1=CC2=C(N=CN=C2N2CCC(CC2)CN)S1 | InChI=1S/C14H20N4S.ClH/c1-2-11-7-12-13(16-9-17-14(12)19-11)18-5-3-10(8-15)4-6-18;/h7,9-10H,2-6,8,15H2,1H3;1H
